US06846827B1
2-(3-Dimethylamino-2-hydroxypropylamino)-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine
Formaldehyde (40% solution in water, 0.2 ml) was added to a suspension of 2-(3-amino-2-hydroxypropylamino)-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine (0.1 g) and sodium cyanoborohydride (0.04 g) in a 3:1 mixture of ethanol and water (16 ml). Acetic acid (0.5 ml) was added to take the pH to approximately 4. The mixture was stirred at ambient temperature for 3 hours. The ethanol was evaporated and a saturated aqueous sodium bicarbonate solution was added to the residue to bring the pH to 8. The mixture was partitioned between methylene chloride and water. The organic phase was washed with brine, dried over sodium sulphate and evaporated to give the title compound as a solid (0.073 g); NMR Spectrum: (DMSOd6) 2.11 (s, 3H), 2.16 (s, 3H), 3.11 (m, 2H), 3.52 (m, 4H), 3.7 (m, 4H), 5.86 (m, 1H), 6.24 (m, 1H), 7.08 (m, 1H), 7.18 (m, 1H), 7.22 (m, 1H), 7.47 (m, 1H), 7.78 (m, 1H), 7.88 (m, 1H), 8.26 (m, 1H), 8.21 (s, 1H), 10.19 (s, 1H); Mass Spectrum: M+H+ 507.

reactant | Formaldehyde | 0.2 ml | C=O | CH2O
reactant | 2-(3-amino-2-hydroxypropylamino)-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.1 g | NCC(CNC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)O | C24H30N8O3
reactant | sodium cyanoborohydride | 0.04 g | C(#N)[BH3-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | Acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 16 ml | O | H2O
product | 2-(3-Dimethylamino-2-hydroxypropylamino)-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.073 g | CN(CC(CNC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)O)C | C26H34N8O3
